US04959440
In a one liter reaction vessel 50 grams (0.16 mol) of 1,4-bis(4-fluorobenzoyl)benzene, 42 grams (0.39 mol) of m-aminophenol, 54 grams of anhydrous potassium carbonate and 400 ml of sulforane were charged and reacted at 150°-160° C. for six hours. After ending the reaction, the reaction mixture was poured into water to make a total volume of two liters. Then the separated crystals were filtered, washed with water and dissolved into 400 ml of 2-methoxyethanol with heating. The resultant solution was added with eight grams of active carbon, stirred, hot filtered and cooled. The separated crystals were filtered and recrystallized again from 2-methoxyethanol and active carbon to afford 60 grams (75% yield) of 1,4-bis[4-(3-aminophenoxy)benzoyl]benzene as pale brown crystals having a melting point of 161°-163° C. and the purity of 99.3% in accordance with high-speed liquid chromatography.

reactant | 1,4-bis(4-fluorobenzoyl)benzene | 0.16 mol, 50 grams | FC1=CC=C(C(=O)C2=CC=C(C=C2)C(C2=CC=C(C=C2)F)=O)C=C1 | C20H12F2O2
reactant | m-aminophenol | 0.39 mol, 42 grams | NC=1C=C(C=CC1)O | C6H7NO
reactant | potassium carbonate | 54 grams | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1,4-bis[4-(3-aminophenoxy)benzoyl]benzene | 60 grams, 75% yield | NC=1C=C(OC2=CC=C(C(=O)C3=CC=C(C=C3)C(C3=CC=C(C=C3)OC3=CC(=CC=C3)N)=O)C=C2)C=CC1 | C32H24N2O4
